US04697025
Potassium 2-[(1'-ethoxy)propoxy]propanoate
To a 250 mL flask containing 52.3 g (0.27 mole) ethyl 2-[(1'-ethoxy)propoxy]propanoate at 25° C. is added a mixture of 18.5 g (0.33 mole) potassium hydroxide and 56 g (1.75 moles) methanol. After two hours at 25° C., the reaction mixture is evacuated and a very viscous liquid, 70.8 g, potassium 2-[(1'-ethoxy)propoxy]propanoate is recovered.

reactant | ethyl 2-[(1'-ethoxy)propoxy]propanoate | 0.27 mole, 52.3 g | C(C)OC(CC)OC(C(=O)OCC)C | C10H20O4
reactant | potassium hydroxide | 0.33 mole, 18.5 g | [OH-].[K+]
reactant | methanol | 1.75 moles, 56 g | CO | CH4O
product | Potassium 2-[(1'-ethoxy)propoxy]propanoate | C(C)OC(CC)OC(C(=O)[O-])C.[K+] | InChI=1S/C8H16O4.K/c1-4-7(11-5-2)12-6(3)8(9)10;/h6-7H,4-5H2,1-3H3,(H,9,10);/q;+1/p-1
